US09376437B2
Synthesis of 2-Chlorobenzylamino-2-imidazoline
To a stirred solution of 2-chlorobenzylamino-2-imidazoline hydriodide (242 mg, 0.72 mMol) in water (3 mL), was added 1.0 N sodium hydroxide (2 mL) at 7° C. The reaction mixture was stirred for 30 min at 7° C. under argon. After that methylene chloride (5 mL) was added and the mixture stirred for another 5 min. The reaction mixture was extracted with methylene chloride (2×2.5 mL), The organic layer was dried over anhydrous Na2SO4, filtered and evaporated. The resulting free base (150 mg, 100%) was obtained as a viscous liquid and was used for the next reaction without any further purification. MS (ESI) 210(M+H).

reactant | 2-chlorobenzylamino-2-imidazoline hydriodide | 0.72 mMol, 242 mg | I.ClC=1N(CCN1)NCC1=CC=CC=C1
reactant | sodium hydroxide | 1.0 N, 2 mL | [OH-].[Na+]
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | 3 mL | O | H2O
product | 2-Chlorobenzylamino-2-imidazoline | 150 mg, 100% | ClC=1N(CCN1)NCC1=CC=CC=C1 | C10H12ClN3
